US06552022B1
4′-Trifluormethyl-biphenyl-2-carboxylic Acid [4-(4-(1H-pyrrol-2-ylmethyl)-piperazin-1-yl)-phenyl)-amide
To a solution of 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (310 mg) in 1,2-dichloroethane (20 mL) was added 1H-pyrrole-2-carboxaldehyde (95 mg) and acetic acid (67 mg). The solution was cooled at 0° C. and sodium triacetoxy borohydride (317 mg) was added portionwise and the mixture was stirred at room temperature for 16 hours. The solution was then washed with a saturated solution of NaHCO3, with brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography eluting with CH2Cl2/MeOH (95/5) and the solid obtained was recrystallized from EtOH to give the title compound (180 mg) as white crystals.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | 310 mg | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N3O
reactant | 1H-pyrrole-2-carboxaldehyde | 95 mg | N1C(=CC=C1)C=O | C5H5NO
reactant | acetic acid | 67 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 317 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4′-Trifluormethyl-biphenyl-2-carboxylic Acid [4-(4-(1H-pyrrol-2-ylmethyl)-piperazin-1-yl)-phenyl)-amide | 180 mg | N1C(=CC=C1)CN1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C29H27F3N4O
